US05262420
Preparation of 1-(2,4-dichlorophenyl)-3-(4-pyridyl)butane
1.0 g (9.35 mmol) of 4-ethylpyridine and 2.37 g (9.35 mmol) of 2,4-dichlorophenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 0.67 g of the desired compound (yield: 25.6%). The resulting compound was identified as 1-(2,4-dichlorophenyl)-3-(4-pyridyl)-butane (hereinafter referred to as compound 9) by the following analytical results.

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 2,4-dichlorophenethyl bromide | 9.35 mmol, 2.37 g | ClC1=C(CCBr)C=CC(=C1)Cl | C8H7BrCl2
product | 1-(2,4-dichlorophenyl)-3-(4-pyridyl)butane | 0.67 g, yield: 25.6% | ClC1=C(C=CC(=C1)Cl)CCC(C)C1=CC=NC=C1 | C15H15Cl2N
